US09085555B2
1-Carboxymethyl-1H-indole-3-carboxylic acid ethyl ester
1-tert-Butoxycarbonylmethyl-1H-indole-3-carboxylic acid ethyl ester (700 mg, 2.31 mmol) was dissolved in CH2Cl2 (12 mL), TFA (2.65 mL, 34.6 mmol) was added and the solution was stirred at RT over week end. CH2Cl2 and water were added, the layers were separated and the aqueous one re-extracted with CH2Cl2 (2×). The combined organic layers were dried with Na2SO4, filtered and concentrated to give the desired compound. TLC, Rf (EtOAc)=0.62; MS (LC/MS): 248.1 [M+H]+, 246.0 [M−H]−; tR (HPLC conditions a): 3.03 min.

reactant | 1-tert-Butoxycarbonylmethyl-1H-indole-3-carboxylic acid ethyl ester | 2.31 mmol, 700 mg | C(C)OC(=O)C1=CN(C2=CC=CC=C12)CC(=O)OC(C)(C)C | C17H21NO4
reactant | TFA | 34.6 mmol, 2.65 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | O | H2O
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 1-Carboxymethyl-1H-indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC=CC=C12)CC(=O)O | C13H13NO4
